US08729112B2
2-Methyl-3-(methylamino)-2-nitropropan-1-ol hydrochloride
A solution of 3,5-dimethyl-5-nitro-1,3-oxazinane (11.5 g, 71.8 mmol) in 280 ml ethanol, 50 ml water, and 12 ml of concentrated hydrochloric acid was equipped with a dean stark trap and heated at reflux temperature. To the refluxing reaction was slowly added a solution of 280 ml ethanol and 50 ml water. The rate of addition of the solution was matched to the rate of distillation and removal of an equal volume of solvent over the course of ca. 2 hours. After 4 hours at reflux temperature, the remaining solvent was distilled off and the crude residue was lyophilized from water to give 14.1 g of white solid, which was used directly in the next step without further purification. 1H NMR (400 MHz, D2O) δ 1.53 (s, 3H), 2.74 (s, 3H), 3.62-3.66 (d, J=14.6 Hz, 1H), 3.68-3.72 (d, J=14.6 Hz, 1H), 3.84-3.87 (d, J=12.5 Hz, 1H), 4.10-4.13 (d, J=12.5 Hz, 1H). 13C NMR (100 MHz, D2O) δ 18.9, 34.4, 52.8, 66.2, 88.9. LRMS (ESI/APCI):149 [M+H]+.

reactant | 3,5-dimethyl-5-nitro-1,3-oxazinane | 71.8 mmol, 11.5 g | CN1COCC(C1)([N+](=O)[O-])C | C6H12N2O3
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | ethanol | 280 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 2-Methyl-3-(methylamino)-2-nitropropan-1-ol hydrochloride | 14.1 g | Cl.CC(CO)(CNC)[N+](=O)[O-] | InChI=1S/C5H12N2O3.ClH/c1-5(4-8,3-6-2)7(9)10;/h6,8H,3-4H2,1-2H3;1H
